US04680297
5-Phenyl-furo[3,2-c][1,8]naphthyridin-4[5H]-one
A mixture of 3,5-dihydro-5-phenyl-furo-[3,2-c][1,8]-naphthyridin-4[2H]-one (2 g.) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ; 2 g.) in dry toluene (50 ml.) was stirred in an atmosphere of nitrogen and heated to reflux. Refluxing was continued for 20 hrs. After cooling somewhat the mixture was evaporated, dissolved in CH2Cl2, filtered and chromatographed on silica gel eluting with increasing concentrations of ethyl acetate in CH2Cl2 (0-10%). Evaporation of the relevant fractions and recrystallization from acetonitrile yielded the desired product, m.p. 245°-247° C.

reactant | 3,5-dihydro-5-phenyl-furo-[3,2-c][1,8]-naphthyridin-4[2H]-one | 2 g | C1(=CC=CC=C1)N1C(C2=C(C=3C=CC=NC13)OCC2)=O | C16H12N2O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 2 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Phenyl-furo[3,2-c][1,8]naphthyridin-4[5H]-one | C1(=CC=CC=C1)N1C(C2=C(C=3C=CC=NC13)OC=C2)=O | C16H10N2O2
